US06462198B1
Diphenylacetyl-carbamic acid pent-4-ynyl ester
The title compound, white solid, m.p. 109° C. and MS: m/e=321.4 (M+H+) was prepared in accordance with the general method of example 1 from diphenylacetyl isocyanate and pent-4-yn-1-ol.

reactant | diphenylacetyl isocyanate | C1(=CC=CC=C1)C(C(=O)N=C=O)C1=CC=CC=C1 | C15H11NO2
reactant | pent-4-yn-1-ol | C(CCC#C)O | C5H8O
product | Diphenylacetyl-carbamic acid pent-4-ynyl ester | C(CCC#C)OC(NC(C(C1=CC=CC=C1)C1=CC=CC=C1)=O)=O | C20H19NO3
